US09447084B2
3-(4-bromonaphthalen-1-yl)-5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazole
Into a 250-mL round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed dichloromethane (100 mL), (E)-N-[(4-bromonaphthalen-1-yl)methylidene]hydroxylamine (4.5 g, 17.99 mmol, 1.00 equiv), 1-chloro-3-(trifluoromethyl)-5-(3,3,3-trifluoroprop-1-en-2-yl)benzene (4.9 g, 17.84 mmol, 1.00 equiv), chlorosylsodium (30 mL). The resulting solution was stirred overnight at room temperature. The aqueous layer was extracted with 3×20 mL of dichloromethane and the organic layers combined and washed with 3×40 mL of brine. The organic phase was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column and washed with ethyl acetate/petroleum ether (1/10-1/5). This resulted in 7.1 g (75%) of 3-(4-bromonaphthalen-1-yl)-5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazole as a off-white solid.

reactant | (E)-N-[(4-bromonaphthalen-1-yl)methylidene]hydroxylamine | 17.99 mmol, 4.5 g, 1.00 equiv | BrC1=CC=C(C2=CC=CC=C12)\C=N\O | C11H8BrNO
reactant | 1-chloro-3-(trifluoromethyl)-5-(3,3,3-trifluoroprop-1-en-2-yl)benzene | 17.84 mmol, 4.9 g, 1.00 equiv | ClC1=CC(=CC(=C1)C(=C)C(F)(F)F)C(F)(F)F | C10H5ClF6
reactant | chlorosylsodium | 30 mL | Cl(=O)[Na]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-(4-bromonaphthalen-1-yl)-5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazole | BrC1=CC=C(C2=CC=CC=C12)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)Cl | C21H11BrClF6NO
